US07915268B2
Trans-4-(tritylamino)cyclohexanol.
Trans-4-aminocyclohexanol (2.6 g, 22.6 mmol) was suspended in 60 mL DCM, then 4 mL (28.7 mmol) triethylamine was added. The mixture was cooled in ice bath, and trityl chloride (6.3 g, 22.6 mmol) was added. The mixture was stirred overnight, allowing it to slowly warm up. Saturated NaHCO3 was added to quench the chloride, and product was extracted with EtOAc three times. The combined organic layer was washed with brine, and dried over Na2SO4. Column chromatography with 20-40% EtOAc in hexanes provided 5.3 g (66%) white solid.

reactant | Trans-4-aminocyclohexanol | 22.6 mmol, 2.6 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | triethylamine | 28.7 mmol, 4 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 22.6 mmol, 6.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | Trans-4-(tritylamino)cyclohexanol | 5.3 g, 66% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)O | C25H27NO
